US06498172B1
3-(3-{[Biphenyl-4-ylmethyl-(pyridine-2-sulfonyl)-amino]-methyl}-phenyl)-propionic acid methyl ester
The title compound of Step B was prepared following the method described in Step B of Example 1 from 3-(3-{[(biphenyl-4-ylmethyl)-amino]-methyl}-phenyl)-propionic acid methyl ester, prepared in Step A of Example 12m and pyridine-2-sulfonyl chloride hydrochloride, of Preparation 47, using triethylamine in place of N,N-diisopropylethylamine. 1H NMR (400 MHz, CDCl3) δ 8.65 (d, 1H), 7.95 (d, 1H), 7.83 (m, 1H), 7.51 (dd, 2H), 7.45-7.29 (m, 6H), 7.16-7.10 (m, 3H), 7.08-6.90 (m, 3H), 4.50 (s, 2H), 4.48 (s, 2H), 3.64 (s, 3H), 2.79 (t, 2H), 2.49 (t, 2H); MS 501 (M+1).

reactant | 3-(3-{[(biphenyl-4-ylmethyl)-amino]-methyl}-phenyl)-propionic acid methyl ester | COC(CCC1=CC(=CC=C1)CNCC1=CC=C(C=C1)C1=CC=CC=C1)=O | C24H25NO2
reactant | pyridine-2-sulfonyl chloride hydrochloride | Cl.N1=C(C=CC=C1)S(=O)(=O)Cl
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 3-(3-{[Biphenyl-4-ylmethyl-(pyridine-2-sulfonyl)-amino]-methyl}-phenyl)-propionic acid methyl ester | COC(CCC1=CC(=CC=C1)CN(S(=O)(=O)C1=NC=CC=C1)CC1=CC=C(C=C1)C1=CC=CC=C1)=O | C29H28N2O4S
